US07160875B2
N-((3S)-5-Benzoyl-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
To a solution of 0.2 g (0.47 mmol) of 2-methyl-N-((3S)-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide in 3 ml of dichloromethane 0.096 g (0.95 mmol) of triethylamine and 0.08 mg (0.57 mmol) of benzoylchloride were added. The mixture was stirred for 20 min at room temperature. Hydrochloric acid (10 ml of a 1 N solution) was added and the mixture was extracted two times with dichloromethane. The combined organic layers were extracted with 1N sodiumbicarbonate solution, dried (MgSO4) and concentrated in vacuo. The remaining oil was purified by column chromatography to yield 0.15 g (60%) of a white foam.

reactant | 2-methyl-N-((3S)-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | 0.47 mmol, 0.2 g | CC(C(=O)N[C@H]1CNC2=C(N(C1=O)C)C=CC=C2)C(=O)NCC(C(F)(F)F)(F)F | C17H19F5N4O3
reactant | dichloromethane | 0.95 mmol, 3 ml, 0.096 g | ClCCl | CH2Cl2
reactant | benzoylchloride | 0.57 mmol, 0.08 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Hydrochloric acid | Cl | ClH
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-((3S)-5-Benzoyl-1-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | 0.15 g, 60% | C(C1=CC=CC=C1)(=O)N1C2=C(N(C([C@H](C1)NC(C(C(=O)NCC(C(F)(F)F)(F)F)C)=O)=O)C)C=CC=C2 | C24H23F5N4O4
